US07528120B2
Finally, a solution of (R)-4-(di-tert-butoxy-phosphoryloxymethyl)-4-(2-{4-[2-(3-fluoro-phenoxy)-ethoxy]-phenyl}-ethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (70 mg, 0.10 mmol) in conc. HCl (2 ml). is stirred at room temperature for one hour and is then heated to 95° C. for 2 hours, then concentrated to dryness. The residue is re-dissolved in ethyl acetate and precipitated with hexanes. The solid is filtered off, washed with dry ether and dried in vacuo to afford phosphoric acid mono-((R)-2-amino-4-{4-[2-(3-fluoro-phenoxy)-ethoxy]-phenyl}-2-hydroxymethyl-butyl)ester as a colorless powder.

reactant | (R)-4-(di-tert-butoxy-phosphoryloxymethyl)-4-(2-{4-[2-(3-fluoro-phenoxy)-ethoxy]-phenyl}-ethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.10 mmol, 70 mg | C(C)(C)(C)OC(=O)N1C(OC[C@]1(CCC1=CC=C(C=C1)OCCOC1=CC(=CC=C1)F)COP(=O)(OC(C)(C)C)OC(C)(C)C)(C)C | C35H53FNO9P
solvent | HCl | 2 ml | Cl | ClH
product | phosphoric acid mono-((R)-2-amino-4-{4-[2-(3-fluoro-phenoxy)-ethoxy]-phenyl}-2-hydroxymethyl-butyl)ester | N[C@](COP(O)(O)=O)(CCC1=CC=C(C=C1)OCCOC1=CC(=CC=C1)F)CO | C19H25FNO7P
